US07312214B2
To a solution of 2-(4-chlorocarbonyl-phenyl)-2-methyl-propionic acid methyl ester (240.0 mg, 1.0 mmol) in CH2Cl2 at 0° C. was added TEA (3.0 mmol) followed by addition of 2-amino-5-chloro-N-(5-chloro-pyridin-2-yl)-benzamide (281 mg, 1.0 mmol) and DMAP (cat. 10 mg). The resulted mixture was stirred at 0° C. for 1 hr and rt over night. Solvent was evaporated and HPLC purification gave 2{4-[4-Chloro-2-(5-chloro-pyridin-2-ylcarbamoyl)-phenylcarbamoyl]-phenyl}-2-methyl-propionic acid methyl ester as white solid. MS found: (M+1)+=486.2.

reactant | 2-(4-chlorocarbonyl-phenyl)-2-methyl-propionic acid methyl ester | 1.0 mmol, 240.0 mg | COC(C(C)(C)C1=CC=C(C=C1)C(=O)Cl)=O | C12H13ClO3
reactant | 2-amino-5-chloro-N-(5-chloro-pyridin-2-yl)-benzamide | 1.0 mmol, 281 mg | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C12H9Cl2N3O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2{4-[4-Chloro-2-(5-chloro-pyridin-2-ylcarbamoyl)-phenylcarbamoyl]-phenyl}-2-methyl-propionic acid methyl ester | COC(C(C)(C)C1=CC=C(C=C1)C(NC1=C(C=C(C=C1)Cl)C(NC1=NC=C(C=C1)Cl)=O)=O)=O | C24H21Cl2N3O4
